US08420851B2
A mixture of {[3,5-Dichloro-4-(4-methoxy-phenoxy)-phenyl]-ethoxycarbonyl-amino}-acetic acid ethyl ester (7.25 g, 0.016 mol) and 4-chlorobenzoic acid (5.13 g, 0.03 mol) in Eaton's reagent (25 mL) was heated at 60° C. for 16 h. The reaction mixture was poured over ice. The product was taken up in ethyl acetate, washed with water, brine, dried over sodium sulphate, filtered and concentrated to give the crude product, which was purified by column chromatography over flash silica gel (hexane:ethylacetate 90:10) to afford pure ({3,5-Dichloro-4-[3-(4-chloro-benzoyl)-4-methoxy-phenoxy]-phenyl}-ethoxycarbonyl-amino)-acetic acid ethyl ester. (3.36 g, 36% yield)

reactant | {[3,5-Dichloro-4-(4-methoxy-phenoxy)-phenyl]-ethoxycarbonyl-amino}-acetic acid ethyl ester | 0.016 mol, 7.25 g | C(C)OC(CN(C(=O)OCC)C1=CC(=C(C(=C1)Cl)OC1=CC=C(C=C1)OC)Cl)=O | C20H21Cl2NO6
reactant | 4-chlorobenzoic acid | 0.03 mol, 5.13 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
solvent | Eaton's reagent | 25 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ({3,5-Dichloro-4-[3-(4-chloro-benzoyl)-4-methoxy-phenoxy]-phenyl}-ethoxycarbonyl-amino)-acetic acid ethyl ester | 36% yield | C(C)OC(CN(C(=O)OCC)C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C1=CC=C(C=C1)Cl)=O)Cl)=O | C27H24Cl3NO7
